US07625902B2
To a stirred solution of aziridine-2-carboxylic acid methyl ester (0.5 g) in dichloromethane (20 ml) at 0° C. were added triethylamine (0.95 g) and isopropylsulfonyl chloride (1.38 g). The mixture was warmed to room temperature and stirred for 3.5 h. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with brine. The organic phase was dried (MgSO4), filtered and evaporated to give the crude 1-(propane-2-sulfonyl)-aziridine-2-carboxylic acid methyl ester as a yellow oil.

reactant | aziridine-2-carboxylic acid methyl ester | 0.5 g | COC(=O)C1NC1 | C4H7NO2
reactant | triethylamine | 0.95 g | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 1.38 g | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(propane-2-sulfonyl)-aziridine-2-carboxylic acid methyl ester | COC(=O)C1N(C1)S(=O)(=O)C(C)C | C7H13NO4S
